US07429581B2
2-[(4-Chloro-phenylcarbamoyl)-methyl]-4-cyano-2H-pyrazole-3-carboxylic acid (1-isopropyl -piperidin-4-yl)-amide
The title compound was prepared analogously to example 1 with the difference that 2-Bromo-N-(4-chloro-phenyl)-acetamide and 4-Cyano-2H-pyrazole-3-carboxylic acid ethyl ester were used instead of 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide and 5-Thiophen-2-yl-2H-pyrazole-3-carboxylic acid ethyl ester in the alkylation step. MS (ESI+): m/e=429, chloro pattern.

reactant | 2-Bromo-N-(4-chloro-phenyl)-acetamide | BrCC(=O)NC1=CC=C(C=C1)Cl | C8H7BrClNO
reactant | 4-Cyano-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=CC1C#N | C7H7N3O2
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
reactant | 5-Thiophen-2-yl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1)C=1SC=CC1 | C10H10N2O2S
product | 2-[(4-Chloro-phenylcarbamoyl)-methyl]-4-cyano-2H-pyrazole-3-carboxylic acid (1-isopropyl -piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C=1N(N=CC1C#N)CC(NC1=CC=C(C=C1)Cl)=O | C21H25ClN6O2
